US07846944B2
Step 5: Synthesis of 4-chloro-3-(1-(2,6-difluorophenyl)-7-methyl-6-oxo-6,7-dihydro-1H-pyrazolo[3,4-b]pyridin-5-yl)benzonitrile
A mixture of 5-(2-chloro-5-iodophenyl)-1-(2,6-difluorophenyl)-7-methyl-1H-pyrazolo[3,4-b]pyridin-6(7H)-one (60 mg, 0.12 mmol) and copper(I) cyanide (54 mg, 0.6 mmol) in DMF (1.5 mL) were heated in a microwave at 140° C. for 1 h. LC-MS indicates ˜60% conversion to the desired product. Additional copper(I) cyanide (100 mg) was added and the reaction mixture was heated for another 1 h in the microwave at 140° C. The reaction mixture was diluted in DCM (20 mL), washed with brine (2×15 mL), dried over MgSO4, filtered and concentrated. The crude residue was purified on the ISCO 12 g column (15-50% EtOAc in hexanes) affording the title compound as a white amorphous solid. MS (ESI, pos.ion) m/z: 397.0 (M+1).

reactant | 5-(2-chloro-5-iodophenyl)-1-(2,6-difluorophenyl)-7-methyl-1H-pyrazolo[3,4-b]pyridin-6(7H)-one | 0.12 mmol, 60 mg | ClC1=C(C=C(C=C1)I)C1=CC2=C(N(C1=O)C)N(N=C2)C2=C(C=CC=C2F)F | C19H11ClF2IN3O
reactant | copper(I) cyanide | 0.6 mmol, 54 mg | [Cu]C#N
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 4-chloro-3-(1-(2,6-difluorophenyl)-7-methyl-6-oxo-6,7-dihydro-1H-pyrazolo[3,4-b]pyridin-5-yl)benzonitrile | ClC1=C(C=C(C#N)C=C1)C1=CC2=C(N(C1=O)C)N(N=C2)C2=C(C=CC=C2F)F | C20H11ClF2N4O
